US05149711
Synthesis of 5-[(4S,5R)-4,6-diacetoxy-1-hydroxy-5-(1-methoxy-1-methylethyloxy)-2-hexen-1-yl]-4-octyl-4-trimethylsilyloxy-2-cyclopentenone
A solution composed of 1 g (3.55 mmoles) of 4-octyl-4-trimethylsilyloxy-2-cyclopentenone, 5 ml of dry hexane and 5 ml of dry ether was cooled to -78° C. under a nitrogen stream, and 870 microliters (5 mmoles) of diisopropylethylamine and then 4.6 ml (4.6 mmoles) of dibutylboron trifurate (lM CH2Cl2 solution) were added. The mixture was stirred at -78° C. for 1 hour. An ether solution (3 ml) of 1070 mg (3.55 mmoles) of (4S,5R)-4,6-diacetoxy-5-(1-methoxy-1-methylethyloxy)-2-hexenal was added, and the mixture was stirred for 2 hours. After the reaction, an aqueous solution of ammonium chloride was added to terminate the reaction, and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous potassium hydrogen sulfate solution, an aqueous sodium hydrogen carbonate solution and a saturated aqueous sodium chloride solution in this sequence, and dried over anhydrous magnesium sulfate solution. The solvent was evaporated under reduced pressure, and the resulting oily product was subjected to Florisil column chromatography (hexane:ethyl acetate: 5:1→3:1) to give 1.24 g (59%) of an aldol product.

reactant | 4-octyl-4-trimethylsilyloxy-2-cyclopentenone | 3.55 mmoles, 1 g | C(CCCCCCC)C1(C=CC(C1)=O)O[Si](C)(C)C | C16H30O2Si
reactant | diisopropylethylamine | 5 mmoles, 870 microliters | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dibutylboron trifurate | 4.6 mmoles, 4.6 ml | O1C(=CC=C1)C(=O)[O-].O1C(=CC=C1)C(=O)[O-].O1C(=CC=C1)C(=O)[O-].C(CCC)[B+3]CCCC
reactant | (4S,5R)-4,6-diacetoxy-5-(1-methoxy-1-methylethyloxy)-2-hexenal | 3.55 mmoles, 1070 mg | C(C)(=O)O[C@@H](C=CC=O)[C@@H](COC(C)=O)OC(C)(C)OC | C14H22O7
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 3 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | hexane | 5 ml | CCCCCC | C6H14
product | 5-[(4S,5R)-4,6-diacetoxy-1-hydroxy-5-(1-methoxy-1-methylethyloxy)-2-hexen-1-yl]-4-octyl-4-trimethylsilyloxy-2-cyclopentenone | 1.24 g, 59% | C(C)(=O)O[C@@H](C=CC(O)C1C(C=CC1=O)(O[Si](C)(C)C)CCCCCCCC)[C@@H](COC(C)=O)OC(C)(C)OC | C30H52O9Si
